US04734429
To an ice-cold solution of 67 grams of 2-dimethylaminomethylene-1,3-cyclohexanedione in 600 ml of methanol was added slowly a solution of 21.3 ml of methylhydrazine in 200 ml of methanol and the resulting solution was heated at reflux for 2 hours. The solvent was removed under reduced pressure and the residue was triturated with ethyl ether to give 1,5,6,7-tetrahydro-1-methyl-4H-indazol-4-one as a tan crystalline solid melting at about 88°-91° C.

reactant | 2-dimethylaminomethylene-1,3-cyclohexanedione | 67 grams | CN(C)C=C1C(CCCC1=O)=O | C9H13NO2
reactant | methylhydrazine | 21.3 ml | CNN | CH6N2
solvent | methanol | 600 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
product | 1,5,6,7-tetrahydro-1-methyl-4H-indazol-4-one | CN1N=CC=2C(CCCC12)=O | C8H10N2O
